US07420083B2
To a stirred solution of 4-hydroxy-2-nitrobenzoic acid methyl ester (4.410 g, 22.369 mmol) in methanol (80 ml) under nitrogen at room temperature was added ammonium formate (5.642 g, 89.475 mmol) and 5% Pd/C (450 mg). After 5 hours the reaction mixture was filtered through celite and rinsed. The filtrate was concentrated and the residue partitioned between EtOAc (150 ml) and water (40 ml). The layers were shaken, separated and the organic layer washed with water (3×30 ml), brine (2×30 ml), dried over Na2SO4, filtered, concentrated and dried to give 2-amino-4-hydroxy-benzoic acid methyl ester (3.593 g, 21.494 mmol, 96%) as an off-white solid, dec. 113-118° C. 1H NMR (DMSO-d6) δ 3.70 (s, 3H), 5.98 (dd, 1H), 6.10 (s, 1H), 6.59 (s, 1H), 7.54 (d, 1H), 9.81 (s, 1H); mass spectrum [ES(−)], m/z 166 (M−H)−.

reactant | 4-hydroxy-2-nitrobenzoic acid methyl ester | 22.369 mmol, 4.410 g | COC(C1=C(C=C(C=C1)O)[N+](=O)[O-])=O | C8H7NO5
reactant | ammonium formate | 89.475 mmol, 5.642 g | C(=O)[O-].[NH4+]
solvent | methanol | 80 ml | CO | CH4O
catalyst | Pd/C | 450 mg | [Pd] | Pd
product | 2-amino-4-hydroxy-benzoic acid methyl ester | 21.494 mmol, 3.593 g, 96% | COC(C1=C(C=C(C=C1)O)N)=O | C8H9NO3
